US06166206
c) 6-(2,3-Dihydro-1H-inden-2-yl)-5-[(3-hydroxypropyl)sulphinyl]-3-methyl-1-(1-methylethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
6-(2,3-Dihydro-1H-inden-2-yl)-5-[(3-hydroxypropyl)thio]-3-methyl-1-(1-methylethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (100 mg) was dissolved in methanol (40 ml). Water (10 ml) and potassium peroxymonosulphate (commercially sold under the trade mark "OXONE") (185 mg) were added and the solution was stirred for 15 minutes. The reaction mixture was diluted with water and then extracted with ethyl acetate thrice. The extracts were combined, washed with brine, then dried, filtered and the solvent was evaporated. The resultant oil was triturated with isohexane, then recrystallised from ethyl acetate-isohexane mixtures to give the title compound (15 mg).

reactant | 6-(2,3-Dihydro-1H-inden-2-yl)-5-[(3-hydroxypropyl)thio]-3-methyl-1-(1-methylethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 100 mg | C1C(CC2=CC=CC=C12)N1C=C2N(C(N(C(C2=C1SCCCO)=O)C)=O)C(C)C | C22H27N3O3S
reactant | potassium peroxymonosulphate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | OXONE | OOS(=O)[O-].[K+]
solvent | methanol | 40 ml | CO | CH4O
solvent | water | O | H2O
solvent | Water | 10 ml | O | H2O
product | 6-(2,3-Dihydro-1H-inden-2-yl)-5-[(3-hydroxypropyl)sulphinyl]-3-methyl-1-(1-methylethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 15 mg | C1C(CC2=CC=CC=C12)N1C=C2N(C(N(C(C2=C1S(=O)CCCO)=O)C)=O)C(C)C | C22H27N3O4S
